US06562807B2
To (R)-(2,2-dimethyl-5-oxo[1,3]dioxolan-4-yl)acetic acid (5.88 g, 33.8 mmol) was added toluene (100 mL), triethylamine (4.7 mL, 33.8 mmol) and diphenoxyphosphoryl azide (8.0 mL, 37.2 mmol). The reaction mixture was heated to a 100° C and stirred under nitrogen at this temperature for 1.5 hour. 9-Fluorenemethanol (5.1 g, 26 mmol) was added and the reaction mixture was refluxed for 6 hours. After cooling to room temperature the mixture was transferred to a separatory funnel and washed with water (2×50 mL). The solvent was removed in vacuo and co-evaporated with acetonitrile (100 mL). The remaining light brown oil was dissolved in DCM (20 mL) and purified on silica gel column with DCM as eluent. The DCM was removed by evaporation to yield a light yellow oil, which was redissolved in acetonitrile (150 mL) and aqueous hydrochloric acid was added (1 N, 75 mL). The yellow reaction mixture was stirred for 3 hours at room temperature. The solvent was removed in vacuo, toluene (100 mL) was added and the suspension was heated to reflux and allowed to cool to room temperature. (R)-Fmoc-isoserine (3.1 g, 28%) was isolated as a powder by filtration. Mp: 165-166° C.

reactant | (R)-(2,2-dimethyl-5-oxo[1,3]dioxolan-4-yl)acetic acid | 33.8 mmol, 5.88 g | CC1(OC([C@H](O1)CC(=O)O)=O)C | C7H10O5
reactant | triethylamine | 33.8 mmol, 4.7 mL | C(C)N(CC)CC | C6H15N
reactant | diphenoxyphosphoryl azide | 37.2 mmol, 8.0 mL | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)N=[N+]=[N-] | C12H10N3O3P
reactant | 9-Fluorenemethanol | 26 mmol, 5.1 g | C1=CC=CC=2C3=CC=CC=C3C(C12)CO | C14H12O
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-Fmoc-isoserine | 3.1 g, 28% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NC[C@@H](O)C(=O)O | C18H17NO5
